US07951815B2
To a solution of 3-(S)-benzyl-8-(2-ethylbutyryl)-1,4,8-triazaspiro[4,5]decan-2-one (1.0 g, 2.9 mmol) in 40 mL of dry THF there was added sodium hydride (90 mg, 3.8 mmol) at room temperature and under a blanket of nitrogen. Following stirring over a period of 1 h at RT benzyl chloride (1.47 g, 11.6 mmol) was slowly added dropwise and the mixture was then heated over a period of 12 h under reflux. Following the addition of an aqueous saturated HCl solution (20 mL), the reaction mixture was isolated by filtration and the filtrate was extracted with EE (3×15 mL), and the combined organic phases were dried over Na2SO4. Following removal, by distillation, of the solvent, there was obtained the crude product as a yellow oil. Further purification was carried out by column chromatography. The product 1,3-(S)-dibenzyl-8-(2-ethylbutyryl)-1,4,8-triazaspiro[4,5]decan-2-one was obtained in a yield of 1.1 g (52%).

reactant | 3-(S)-benzyl-8-(2-ethylbutyryl)-1,4,8-triazaspiro[4,5]decan-2-one | 2.9 mmol, 1.0 g | C(C1=CC=CC=C1)[C@H]1C(NC2(N1)CCN(CC2)C(C(CC)CC)=O)=O | C20H29N3O2
reactant | sodium hydride | 3.8 mmol, 90 mg | [H-].[Na+]
reactant | benzyl chloride | 11.6 mmol, 1.47 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | HCl | 20 mL | Cl | ClH
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1,3-(S)-dibenzyl-8-(2-ethylbutyryl)-1,4,8-triazaspiro[4,5]decan-2-one | C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(C(CC)CC)=O)CC2=CC=CC=C2)=O | C27H35N3O2
